* Z:\mnt\design.r\spice\examples\3470A.asc
V1 IN 0 10
L1 N002 OUT 33µ
R1 N003 0 200K
R2 OUT N003 604K
C1 N002 N001 .22µ
C2 OUT N003 22p
C3 OUT 0 10µ
Rload OUT 0 500
XU1 IN MP_01 IN 0 N002 N001 OUT N003 LT3470A
.tran 500u startup
.lib LT3470A.sub
.backanno
.end
